US04772432
It is known to prepare 7,7,8,8-tetracyanoquinodimethane, for example, by subjecting malononitrile and 1,4-cyclohexane-dione to a condensation reaction to obtain 1,4-bis(dicyanomethylene)cyclohexane, and oxidizing the cyclohexane in pyridine with N-bromosuccinimide or bromine.

reactant | 7,7,8,8-tetracyanoquinodimethane | C1=CC(=C(C#N)C#N)C=CC1=C(C#N)C#N | C12H4N4
reactant | malononitrile | C(CC#N)#N | C3H2N2
reactant | 1,4-cyclohexane-dione | C1(CCC(CC1)=O)=O | C6H8O2
product | 1,4-bis(dicyanomethylene)cyclohexane | C(#N)C(=C1CCC(CC1)=C(C#N)C#N)C#N | C12H8N4
